US06743794B2
1-tert-Butoxycarbonylamino-cyclohexanecarboxylic Acid
To a slurry of 1-amino-1-cyclohexane-carboxylic acid, 5.0 g (35.0 mmol) in 50 mL of tetrahydrofuran and 50 mL of water was added 14.5 g (105.0 mmol) of potassium carbonate, 7.7 g (35.0 mmol) of BOC-anhydride and 5 mg of DMAP. The mixture was stirred overnight at rt. and the organics were evaporated off in vacuo. The aqueous layer was acidified to pH=1 with 5 N HCl and extracted with 20% isopropanol/chloroform. The combined organics were washed with brine, dried over Na2SO4, filtered and concentrated to dryness to yield 1.83 g (21%) of the desired product as a white oil that solidifies upon standing. MS (IS) 244.2 (M+).

reactant | 1-amino-1-cyclohexane-carboxylic acid | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | water | 50 mL | O | H2O
reactant | potassium carbonate | 105.0 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-Butoxycarbonylamino-cyclohexanecarboxylic Acid | 1.83 g, 21% | C(C)(C)(C)OC(=O)NC1(CCCCC1)C(=O)O | C12H21NO4
